US06797739B1
Preparation of 3-{4-[2,4-bis(trichloromethyl)-s-triazine-6-yl]phenyl thio}propionic Acid Represented as in the Following Chemical Formula 1a
The reaction mixture of 22 g of 3-(4-cyanophenyl thio)propionic acid, 150 g of trichloroacetonitrile, and 2 g of AlBr3 was heated to 60° C. in order to dissolve the initially undissolved starting materials, and was bubbled by dry HCl at room temperature.

reactant | 3-(4-cyanophenyl thio)propionic acid | 22 g | C(#N)C1=CC=C(C=C1)SCCC(=O)O | C10H9NO2S
reactant | trichloroacetonitrile | 150 g | ClC(C#N)(Cl)Cl | C2Cl3N
reactant | AlBr3 | 2 g | [Al](Br)(Br)Br
product | 3-{4-[2,4-bis(trichloromethyl)-s-triazine-6-yl]phenyl thio}propionic Acid | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C1=CC=C(C=C1)SCCC(=O)O)(Cl)Cl | C14H9Cl6N3O2S
